US08222424B2
2-Chloro-5-[2-(2,2-dimethyl-propionyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-6-carbonyl]-benzenesulfinamide
5-[9-Benzenesulfonyl-2-(2,2-dimethyl-propionyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-6-carbonyl]-2-chloro-benzenesulfinamide and its isomer (0.12 g, 0.195 mmol) are dissolved in 3 mL of 2:1 (v:v) mixture of methanol and 5 N aqueous sodium hydroxide then heated at reflux for 20 minutes. The reaction mixture is allowed to cool to room temperature and the methanol is removed in vacuo. The aqueous solution is acidified with 5 N HCl to pH 3 and then thoroughly extracted with ethyl acetate, the combined organic extracts are washed with water then a saturated sodium chloride solution, dried with magnesium sulfate, and concentrated in vacuo. Purification via preparative HPLC provides 0.014 g (15%) of the title compound as a yellow solid. 1H NMR (DMSO): δ 11.40 (s, 1H), 8.30 (s, 1H), 7.90 (m, 2H), 7.80 (m, 3H), 7.50-7.60 (m, 2H), 4.74 (s, 2H), 4.00 (m, 2H), 2.80 (m, 2H). MS (m/z): 472.1 (M−1).

reactant | 5-[9-Benzenesulfonyl-2-(2,2-dimethyl-propionyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-6-carbonyl]-2-chloro-benzenesulfinamide | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C(=O)C=1C=CC(=C(C1)S(=O)N)Cl)CCN(C2)C(C(C)(C)C)=O | C29H28ClN3O5S2
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 5 N | [OH-].[Na+]
product | 2-Chloro-5-[2-(2,2-dimethyl-propionyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-6-carbonyl]-benzenesulfinamide | 0.014 g, 15% | ClC1=C(C=C(C=C1)C(=O)C=1C=C2C3=C(NC2=CC1)CN(CC3)C(C(C)(C)C)=O)S(=O)N | C23H24ClN3O3S
